US05885990
Preparation of 6-amidino-1-carbamoylmethyl-2-naphthyl 4-[(2-acetylaminoethyl)iminomethylaminomethylamino]benzoate.dihydrochloride:
20 Milliliters of 20% hydrous pyridine was added to 1.4 g of 4-[(2-acetylaminoethyl)iminomethylaminomethylamino]benzoic acid.hydrobromide, 1.0 g of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 884 mg of DCC and 43.6 mg of DMAP, followed by stirring for 2 hours under cooling with ice and 4 days at room temperature. The precipitate was filtered and the filtrate was added dropwise to 250 ml of a mixed liquid of ether and acetone (1:10) and this was stirred for 24 hours under cooling with ice. Then, the precipitate was collected by filtration. To this collected precipitate was added 7 ml of DMF to dissolve the precipitate with heating, and 1.46 ml of concentrated hydrochloric acid was added under cooling with ice and stirring. This solution was added dropwise to 400 ml of ether.acetone (1:20), followed by stirring for 1 hour under cooling with ice and then 24 hours under cooling with water. After the supernatant was decanted, 20 ml of DMF was again added to the residue to dissolve the residue with heating, and further 1.5 ml of concentrated hydrochloric acid was added under cooling with water and stirring. This solution was added dropwise to 400 ml of acetone, followed by stirring for 1 hour under cooling with ice and then 24 hours under cooling with water. Thereafter, the precipitate was collected by filtration to obtain a crude product.

reactant | 4-[(2-acetylaminoethyl)iminomethylaminomethylamino]benzoic acid.hydrobromide | 1.4 g | Br.C(C)(=O)NCCN=CNCNC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 1.0 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 884 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 43.6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 4-[(2-acetylaminoethyl)iminomethylaminomethylamino]benzoate.dihydrochloride | Cl.Cl.C(C)(=O)NCCN=CNCNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=C1 | InChI=1S/C26H29N7O4.2ClH/c1-16(34)32-11-10-30-14-31-15-33-20-6-2-17(3-7-20)26(36)37-23-9-5-18-12-19(25(28)29)4-8-21(18)22(23)13-24(27)35;;/h2-9,12,14,33H,10-11,13,15H2,1H3,(H2,27,35)(H3,28,29)(H,30,31)(H,32,34);2*1H
